US07943607B2
Methyl 3-hydroxy-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate
10% Palladium on carbon (1.2 g) was added to a mixture of methyl 3-[(phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate (12 g, 36.54 mmol), in ethanol (80 mL) and THF (80 mL) in an argon filled flask. The flask was evacuated and the atmosphere replaced with hydrogen. The mixture was stirred for 20 hours, filtered through Celite® and the solvent removed in vacuo to give the desired compound as a white solid (8.41 g).

reactant | methyl 3-[(phenylmethyl)oxy]-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 36.54 mmol, 12 g | C1(=CC=CC=C1)COC=1C=C(C(=O)OC)C=C(C1)O[C@@H]1COCC1 | C19H20O5
reactant | THF | 80 mL | C1CCOC1 | C4H8O
catalyst | Palladium on carbon | 1.2 g | [Pd] | Pd
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | Methyl 3-hydroxy-5-[(3S)-tetrahydrofuran-3-yloxy]benzoate | 8.41 g | OC=1C=C(C(=O)OC)C=C(C1)O[C@@H]1COCC1 | C12H14O5
